US03935268
A mixture of 3,3-diphenylpropylamine (4.9 g) and 3,3-diphenyl-1-chloropropane (5.0 g) in xylene (10 ml) was heated at 120° to 130°C for 4 hours. After cooling, a small amount of benzene was added to the reaction mixture and then the mixture was filtered to remove 3,3-diphenylpropylamine hydrochloride. The filtrate was washed with 5 % hydrochloric acid and water in order. The organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting crystalline residue was recrystallized from methanol to give bis(3,3-diphenylpropyl)amine hydrochloride (3.0 g.). M.P. 192° to 194°C.

reactant | 3,3-diphenylpropylamine | 4.9 g | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | 3,3-diphenyl-1-chloropropane | 5.0 g | C1(=CC=CC=C1)C(CCCl)C1=CC=CC=C1 | C15H15Cl
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | bis(3,3-diphenylpropyl)amine hydrochloride | 3.0 g | Cl.C1(=CC=CC=C1)C(CCNCCC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H31N.ClH/c1-5-13-25(14-6-1)29(26-15-7-2-8-16-26)21-23-31-24-22-30(27-17-9-3-10-18-27)28-19-11-4-12-20-28;/h1-20,29-31H,21-24H2;1H
